US07271190B2
N-(3-acetyl-4-chlorophenyl)methanesulfonamide (300 mg) was dissolved in dioxane (5 mL), and bromine (77 μL) was added dropwise with ice-cooling. After stirring at room temperature for 1 hour, the solvent was distilled off under reduced pressure. The residue was washed with a water/ethanol mixture (1:1) and then dried under reduced pressure to yield N-(3-bromoacetyl-4-chlorophenyl)methanesulfonamide (312 mg) as a colorless crystal.

reactant | N-(3-acetyl-4-chlorophenyl)methanesulfonamide | 300 mg | C(C)(=O)C=1C=C(C=CC1Cl)NS(=O)(=O)C | C9H10ClNO3S
reactant | bromine | 77 μL | BrBr | Br2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-(3-bromoacetyl-4-chlorophenyl)methanesulfonamide | 312 mg | BrCC(=O)C=1C=C(C=CC1Cl)NS(=O)(=O)C | C9H9BrClNO3S
